US07468382B2
4-{[5-Nitro-2-(2-trifluoromethoxy-benzylamino)-pyridin-4-ylamino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester (91 mg, 0.17 mmol) was dissolved in CH2Cl2 (2.5 mL). TFA (2.5 mL) was added and the reaction was stirred for 3 h. The volatiles were removed and the resultant residue was redissolved in EtOAc and poured into 10% aqueous NaHCO3. The aqueous phase was separated and extracted two more times with EtOAc. The organic layers were combined, dried (Na2SO4), decanted and concentrated. The crude product was purified by SiO2 chromatography (1:10:89, NH4OH:CH3OH:CH2Cl2) to afford 5-nitro-N4-piperidin-4-ylmethyl-N2-(2-trifluoromethoxy-benzyl)-pyridine-2,4-diamine as a yellow solid, m/z 426.4 (M+H)+ (28 mg, 39%).

reactant | 4-{[5-Nitro-2-(2-trifluoromethoxy-benzylamino)-pyridin-4-ylamino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.17 mmol, 91 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=CC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F | C24H30F3N5O5
reactant | TFA | 2.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 5-nitro-N4-piperidin-4-ylmethyl-N2-(2-trifluoromethoxy-benzyl)-pyridine-2,4-diamine | [N+](=O)([O-])C=1C(=CC(=NC1)NCC1=C(C=CC=C1)OC(F)(F)F)NCC1CCNCC1 | C19H22F3N5O3
